US07179819B2
To a stirred solution of ethyl (E)-4-[2-[1-(tert-butoxycarbonyl)-2-pyrrolidinyl]ethenyl]benzoate (700 mg, 2.03 mmol) in CH2Cl2 (3 mL) was added TFA (3 mL) and the resulting mixture was stirred for 3 hr. The mixture was concentrated and the residue was made basic by the addition of sat. NaHCO3. The mixture was extracted with CHCl3 (2×100 mL). The combined extracts were dried over Na2CO3 and concentrated in vacuo to give 434 mg (87%) ethyl (E)-4-[2-(2-pyrrolidinyl) ethenyl]benzoate as a brown oil. 1H-NMR (CDCl3) δ 1.39 (3 H, t, J=7.3 Hz), 1.52–2.06 (4 H, series of m), 2.93–2.99 (1 H, m), 3.07–3.13 (1 H, m), 3.74 (1 H, q, J=7.3 Hz), 4.37 (2 H, q, J=7.3 Hz), 6.34 (1 H, dd, J=15.6, 7.3 Hz), 6.54 (1 H, d, J=15.6 Hz), 7.41 (2 H, d, J=8.3 Hz), 7.97 (2 H, d, J=8.3 Hz).

reactant | ethyl (E)-4-[2-[1-(tert-butoxycarbonyl)-2-pyrrolidinyl]ethenyl]benzoate | 2.03 mmol, 700 mg | C(C)(C)(C)OC(=O)N1C(CCC1)/C=C/C1=CC=C(C(=O)OCC)C=C1 | C20H27NO4
reactant | TFA | 3 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | 3 mL | C(Cl)Cl | CH2Cl2
product | ethyl (E)-4-[2-(2-pyrrolidinyl) ethenyl]benzoate | 434 mg, 87% | N1C(CCC1)/C=C/C1=CC=C(C(=O)OCC)C=C1 | C15H19NO2
